US04020075
2-Bromo-1-hydroxyquinolizinium bromide p-anisidinium salt
Into a 500 ml., 3-neck flask was placed a mixture of 1-acetoxy-2-bromoquinolizinium bromide (12.0 g., 0.035 mole), p-anisidine (9.6 g., 0.078 mole) and isopropanol (240 ml.). The stirred solution was boiled under reflux for 4.5 hours. After cooling in an ice bath the reaction mixture was treated with ethyl acetate to induce crystallization. The yellow solid (11.0 g., 74%) was removed by filtration, washed with ether and ethyl acetate and dried at 63°. Recrystallization from isopropanol/ethyl actate provided a pale yellow powder which melted at 129°-133°.

reactant | 1-acetoxy-2-bromoquinolizinium bromide | 0.035 mole, 12.0 g | [Br-].C(C)(=O)OC1=C(C=C[N+]2=CC=CC=C12)Br
reactant | p-anisidine | 0.078 mole, 9.6 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | isopropanol | 240 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-1-hydroxyquinolizinium bromide p-anisidinium salt | COC1=CC=C(C=C1)[NH3+].[Br-].BrC1=C(C2=CC=CC=[N+]2C=C1)O.[Br-] | InChI=1S/C9H6BrNO.C7H9NO.2BrH/c10-7-4-6-11-5-2-1-3-8(11)9(7)12;1-9-7-4-2-6(8)3-5-7;;/h1-6H;2-5H,8H2,1H3;2*1H
